US08802670B2
To a solution of pyrazole (68 mgs) in anhydrous dimethylformamide was added sodium hydride (44 mgs). The reaction mixture was stirred at 50° C. for 25 minutes. 4-Bromomethyl-piperidine-1-carboxylic acid tert-butyl ester (280 mgs) in anhydrous dimethylformamide was added. The reaction mixture was stirred at 70° C. under argon for 2.5 hours. The reaction mixture was quenched with water (1 ml) and the solvents were removed in vacuo. The crude residue was partitioned between dichloromethane and water, dried (MgSO4) and the solvents removed in vacuo to give a crude product. This was purified using flash chromatography to yield 4-Pyrazol-1-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester (148 mg).

reactant | pyrazole | 68 mgs | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | 44 mgs | [H-].[Na+]
reactant | 4-Bromomethyl-piperidine-1-carboxylic acid tert-butyl ester | 280 mgs | C(C)(C)(C)OC(=O)N1CCC(CC1)CBr | C11H20BrNO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Pyrazol-1-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester | 148 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1N=CC=C1 | C14H23N3O2
